US04788210
A mixture of 1.1 g of 3-(o-chlorophenyl)-1-(2-hydroxyethyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, 1.09 g of thionyl chloride and 5 ml of toluene is heated at reflux temperature for 4 hours. The reaction mixture is then evaporated, the residue is taken up in diethyl ether, the soluton is washed twice with 5% sodium bicarbonate solution, dried over anhydrous magnesium sulphate and evaporated. In this manner there is obtained 1-(2-chloroethyl)-3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 66°-68° C.

reactant | 3-(o-chlorophenyl)-1-(2-hydroxyethyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | 1.1 g | ClC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)C(F)(F)F)CCO | C17H13ClF3N3O
reactant | thionyl chloride | 1.09 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloroethyl)-3-(o-chlorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | ClCCN1N=C(N=C1C1=C(C=CC=C1)C(F)(F)F)C1=C(C=CC=C1)Cl | C17H12Cl2F3N3
